US06096781
2-(4-Benzoyloxyphenyl)-6-Benzoyloxybenzo[b]thiophene
2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thiophene and benzoyl chloride were converted to the title compound by the procedure of Example 3 to yield a white crystalline solid. mp 216° C.-218° C.

reactant | 2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thiophene | OC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)O | C14H10O2S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-(4-Benzoyloxyphenyl)-6-Benzoyloxybenzo[b]thiophene | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC(C2=CC=CC=C2)=O | C28H18O4S
